US07501407B2
2-[4-(4-tert-Butylbenzyl)piperazin-1-yl]-N-(6-chloro-2-phenylpyrimidin-4-yl)acetamide (22.51):
To a stirred solution of 2-bromo-N-(6-chloro-2-phenylpyrimidin-4-yl)acetamide (0.80 g in 40 ml acetonitrile) was added [(2E)-3-phenylprop-2-enyl]piperazine (0.50 g in 10 ml acetonitrile). After 3 hrs, N,N-diisopropylethylamine was added (428 μl in 10 ml acetonitrile) and the reaction stirred for a further 2 hrs after which time a precipitate of the title compound appeared. This was used crude in the next step.

reactant | 2-bromo-N-(6-chloro-2-phenylpyrimidin-4-yl)acetamide | 40 ml, 0.80 g | BrCC(=O)NC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C12H9BrClN3O
reactant | [(2E)-3-phenylprop-2-enyl]piperazine | 10 ml, 0.50 g | C1(=CC=CC=C1)/C=C/CN1CCNCC1 | C13H18N2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-[4-(4-tert-Butylbenzyl)piperazin-1-yl]-N-(6-chloro-2-phenylpyrimidin-4-yl)acetamide | C(C)(C)(C)C1=CC=C(CN2CCN(CC2)CC(=O)NC2=NC(=NC(=C2)Cl)C2=CC=CC=C2)C=C1 | C27H32ClN5O
